US08609644B2
A suspension of tert-butyl cis-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]-cyclohexylcarbamate (2.00 g) in MeOH (23 mL), hydrazine (26% in water, 1.1 mL) was added. After stirring at room temperature for 30 min, the mixture was filtered. The filtrate was evaporated to dryness and purified by flash chromatography (SiO2, CH2Cl2:MeOH 9:1) to give cis-4-(tert-butoxycarbonyl)aminocyclohexyloxyamine (0.80 g, 63%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 6.73 (1H, d), 5.75 (2H, bb), 3.45 (1H, m), 3.21 (1H, m), 1.30-1.90 (8H, m), 1.36 (9H, s).

reactant | tert-butyl cis-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]-cyclohexylcarbamate | 2.00 g | O=C1N(C(C2=CC=CC=C12)=O)O[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C19H24N2O5
solvent | MeOH | 23 mL | CO | CH4O
solvent | hydrazine | 1.1 mL | NN | H4N2
product | cis-4-(tert-butoxycarbonyl)aminocyclohexyloxyamine | 0.80 g, 63% | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)ON | C11H22N2O3
